US05519034
A mixture of 1 -[1-(2,4 -dichlorophenyl)cyclopropyl]-6-fluoro-7-methoxy-2-methyl-1,2,3,4-tetrahydroisoquinoline (8.5 g), 48% aqueous hydrobromic acid (100 ml) and glacial acetic acid (100 ml) was heated under reflux for 2 hours. The solvents were removed in vacuo and the residue dried by azeotropic distillation with propan-2-ol. The resulting solid was recrystallised from propan-2-ol to yield 1-[1-(2,4-dichlorophenyl)cyclopropyl]-6-fluoro-7-hydroxy-2-methyl-1,2,3,4-tetrahydroisoquinoline hydrobromide (7.2 g), m.p. 235°-237° C.

reactant | 1 -[1-(2,4 -dichlorophenyl)cyclopropyl]-6-fluoro-7-methoxy-2-methyl-1,2,3,4-tetrahydroisoquinoline | 8.5 g | ClC1=C(C=CC(=C1)Cl)C1(CC1)C1N(CCC2=CC(=C(C=C12)OC)F)C | C20H20Cl2FNO
reactant | hydrobromic acid | 100 ml | Br | BrH
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
product | 1-[1-(2,4-dichlorophenyl)cyclopropyl]-6-fluoro-7-hydroxy-2-methyl-1,2,3,4-tetrahydroisoquinoline hydrobromide | 7.2 g | Br.ClC1=C(C=CC(=C1)Cl)C1(CC1)C1N(CCC2=CC(=C(C=C12)O)F)C | InChI=1S/C19H18Cl2FNO.BrH/c1-23-7-4-11-8-16(22)17(24)10-13(11)18(23)19(5-6-19)14-3-2-12(20)9-15(14)21;/h2-3,8-10,18,24H,4-7H2,1H3;1H
